US06403822B2
The procedure of Synthesis Example 1 was repeated except that 3-ethyl-3-pentyl acetate was used instead of 1-ethylcyclopentyl acetate, and 5-(5-norbornen-2-yl)-2-pentanone was used instead of 5-norbornene-2-carbaldehyde. There was obtained 3-ethyl-3-pentyl 3-hydroxy-3-methyl-6-(5-norbornen-2-yl)hexanoate. Yield 91%.

reactant | 3-ethyl-3-pentyl acetate | C(C)(=O)OC(CC)(CC)CC | C9H18O2
reactant | 5-(5-norbornen-2-yl)-2-pentanone | C12C(CC(C=C1)C2)CCCC(C)=O | C12H18O
product | 3-ethyl-3-pentyl 3-hydroxy-3-methyl-6-(5-norbornen-2-yl)hexanoate | Yield 91% | OC(CC(=O)OC(CC)(CC)CC)(CCCC1C2C=CC(C1)C2)C | C21H36O3
